US20010056188A1
1) 2-(4-Chlorophenylsulfonyl)-3-(3,5-dimethoxyphenylamino)-3-methylsulfanyl-2-propenenitrile
To a solution of 4-chlorophenylsulfonylacetonitrile (1.00 g, 4.6 mmol) in dry acetone (10 ml) first dry potassium carbonate (1.28 g, 9.3 mmol) and then 3,5-dimethoxyphenyl isothiocyanate (0.96 g, 4.9 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 2 h 15 min and then filtered. To the filtrate methyl iodide (0.86 ml, 13.9 mmol) was added. The mixture was stirred at room temperature for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM, washed with water, dried (Na2SO4) and concentrated. The residue was crystallised from ethyl acetate/heptane 1:2 to give 1.27 g (65%) of the title compound. Mp 119.5-123° C.; 1H NMR (200 MHz, CDCl3): δ=2.29 (s, 3H), 3.80 (s, 6H), 3.36 (m, 3H), 7.53 (d, 2H), 7.87 (d, 2H), 9.82 (brs, 1H); EI SP/MS: 424 (M+).

reactant | 4-chlorophenylsulfonylacetonitrile | 4.6 mmol, 1.00 g | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | potassium carbonate | 9.3 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dimethoxyphenyl isothiocyanate | 4.9 mmol, 0.96 g | COC=1C=C(C=C(C1)OC)N=C=S | C9H9NO2S
reactant | methyl iodide | 13.9 mmol, 0.86 ml | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-(4-Chlorophenylsulfonyl)-3-(3,5-dimethoxyphenylamino)-3-methylsulfanyl-2-propenenitrile | 1.27 g, 65% | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(SC)NC1=CC(=CC(=C1)OC)OC | C18H17ClN2O4S2
